US06417207B1
1a. N-(2-methyl-2-sulfanylpropyl)-3-pyridylcarboxamide
1-Amino-2-methylpropane-2-thiol hydrochloride (1.10 g, 6.18 mmol) was dissolved in DMF and nicotinoyl chloride hydrochloride (1.14 g, 8.03 mmol) was slowly added as a solid. The mixture was cooled to 0° C. and triethylamine (3.0 mL, 21.63 mmol) was slowly added. The mixture was stirred for one half hour at 0° C., allowed to warm to room temperature, and stirred overnight. The reaction mixture was diluted with methylene chloride, washed with saturated sodium bicarbonate, brine, and dried over magnesium sulfate. The volatiles were removed under reduced pressure to give a pink oil. An excess of hydrogen chloride in ether was added to precipitate 831 mg. (55%) of the title compound, mp. 163-165° C. 1H NMR (300 MHz, DMSO) δ9.00 (br s, 1H), 8.71 (dd, 1H, J=2.0, 4.9), 8.20 (dt, 1H, J=2.0, 7.9), 7.51 (dd, 1H, J=4.9, 7.9), 3.44 (d, 2H, J=6.3), 1.32 (s, 6H).

reactant | 1-Amino-2-methylpropane-2-thiol hydrochloride | 6.18 mmol, 1.10 g | Cl.NCC(C)(S)C
reactant | nicotinoyl chloride hydrochloride | 8.03 mmol, 1.14 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 21.63 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-(2-methyl-2-sulfanylpropyl)-3-pyridylcarboxamide | CC(CNC(=O)C=1C=NC=CC1)(C)S | C10H14N2OS
